US07550459B2
2,2-Dimethylpropionic acid 2-{1-[3-(6,7-difluoro-2-oxo-3,4-dihydro-2H-quinolin-1yl)-propyl]piperidin-4-yl}ethyl ester (AC00261939)
A 4 ml vial was charged with 1-(3-chloropropyl)-6,7-difluoro-3,4-dihydro-1H-quinolin-2-one (52 mg, 0.20 mmol), 2,2-dimethyl-propionic acid 2-piperidin-4-yl-ethyl ester, and Cs2CO3 (200 mg, 0.60 mmol) in dry DMF (1 ml). The reaction was shaken at 80° C. for 3 days and the reaction was poured into water and extracted with EtOAc. The organic phase was washed with brine, dried (Na2SO4), filtered, and concentrated under reduced pressure. The oily residue was purified by ion-exchange column chromatography to yield the title product as an oil (21 mg, 48 μmol, 24%). 1H NMR (CD3OD) d 7.23-7.12 (m, 2H), 4.11 (t, J=6.0 Hz, 2H), 3.96 (t, J=7.2 Hz, 2H), 3.18-3.06 (m, 2H), 2.88 (br t, 6.8 Hz, 2H), 2.66-2.58 (m, 4H), 2.29 (dt, J=2.0, 12.0 Hz, 2H), 1.94-1.85 (m, 2H), 1.81 (br d, J=13.6 Hz, 2H), 1.64-1.57 (m, 2H), 1.57-1.45 (m, 1H), 1.42-1.31 (m, 2H), 1.18 (s, 9H); 13C NMR (CD3OD) d 178.9, 171.1, 149.2 (dd, J=13, 241 Hz) 145.8 (dd, J=13, 230 Hz), 135.0 (br), 123.8 (dd, J=4, 6 Hz), 116.5 (d, J=19 Hz), 105.1 (d, J=23 Hz), 62.2, 55.0 53.2, 40.2, 38.6, 34.7, 31.1, 30.8, 26.4, 24.3, 23.5; HPLC-MS (ammonium acetate) [M+H]+=437.22.

reactant | 1-(3-chloropropyl)-6,7-difluoro-3,4-dihydro-1H-quinolin-2-one | 0.20 mmol, 52 mg | ClCCCN1C(CCC2=CC(=C(C=C12)F)F)=O | C12H12ClF2NO
reactant | 2,2-dimethyl-propionic acid 2-piperidin-4-yl-ethyl ester | N1CCC(CC1)CCOC(C(C)(C)C)=O | C12H23NO2
reactant | Cs2CO3 | 0.60 mmol, 200 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2,2-Dimethylpropionic acid 2-{1-[3-(6,7-difluoro-2-oxo-3,4-dihydro-2H-quinolin-1yl)-propyl]piperidin-4-yl}ethyl ester | 48 μmol, 21 mg, 24% | FC=1C=C2CCC(N(C2=CC1F)CCCN1CCC(CC1)CCOC(C(C)(C)C)=O)=O | C24H34F2N2O3
